US07816522B2
(157b) 3-hydrazino-1H-pyrazole-4-carboxylic acid ethyl ester bishydrochloride
After adding 25 ml of trifluoroacetic acid to a solution of 3.30 g of 3-(N′-t-butoxycarbonylhydrazino)-1H-pyrazole-4-carboxylic acid ethyl ester in 50 ml of dichloromethane, the mixture was stirred for 2 hours at room temperature. Next, 100 ml of toluene was added and the solvent was removed under reduced pressure. The residue was dissolved in a small amount of methanol, and after adding a 4N solution containing hydrochloric acid in ethyl acetate until the solution reached acidic, the solvent was removed under reduced pressure. The residue was treated with 50 ml of t-butyl methyl ether, and the solid was filtered off and dried under reduced pressure to give the title compound (3.30 g) as a white solid.

reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(N′-t-butoxycarbonylhydrazino)-1H-pyrazole-4-carboxylic acid ethyl ester | 3.30 g | C(C)OC(=O)C=1C(=NNC1)NNC(=O)OC(C)(C)C | C11H18N4O4
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-hydrazino-1H-pyrazole-4-carboxylic acid ethyl ester bishydrochloride | 3.30 g | Cl.Cl.C(C)OC(=O)C=1C(=NNC1)NN | InChI=1S/C6H10N4O2.2ClH/c1-2-12-6(11)4-3-8-10-5(4)9-7;;/h3H,2,7H2,1H3,(H2,8,9,10);2*1H
